US05302643
Preparation of Ammonium Xylonate
Calcium xylonate, 3.70 g (0.01 mol) was dissolved in 40 ml water. While stirring at 40° C., a solution of 1.06 g (0.011 mol) ammonium carbonate in 5 ml water was added, the mixture allowed to stand 4 hours at room temperature and filtered to remove the calcium carbonate. The aqueous solution was decolorized with activated charcoal, filtered, and evaporated at 40° C. under vacuum to afford a syrup which crystallized on standing. The crystals were slurried in 20 ml MeOH, filtered, and washed again with MeOH on the filter. The product was dried in vacuo over P2O5 to afford 2.45 g (67%). The prisms obtained had MP=118° to 122° C., LIT=120° to 122° C. (Carbohyd. Res. 7 (1968) 38-55).

reactant | Calcium xylonate | O=C([C@H](O)[C@@H](O)[C@H](O)CO)[O-].[Ca+2].O=C([C@H](O)[C@@H](O)[C@H](O)CO)[O-]
reactant | ammonium carbonate | 0.011 mol, 1.06 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | 40 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | Ammonium Xylonate | O=C([C@H](O)[C@@H](O)[C@H](O)CO)[O-].[NH4+] | InChI=1S/C5H10O6.H3N/c6-1-2(7)3(8)4(9)5(10)11;/h2-4,6-9H,1H2,(H,10,11);1H3/t2-,3+,4-;/m1./s1
